US05234946
100 mg of 2-hydroxymethyl-4-(3-thienyl)thiophene was suspended in 5 ml of chloroform, and with stirring under ice cooling, 2 microliters of dimethylformamide and 80 microliters of thionyl chloride were added. The mixture was stirred for 30 minutes, and neutralized with a saturated aqueous solution of sodium hydrogen carbonate under ice cooling. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the chloroform was evaporated to give 2-chloromethyl-4-(3-thienyl)thiophene as a yellow powder.

reactant | 2-hydroxymethyl-4-(3-thienyl)thiophene | 100 mg | OCC=1SC=C(C1)C1=CSC=C1 | C9H8OS2
reactant | dimethylformamide | 2 microliters | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 80 microliters | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-4-(3-thienyl)thiophene | ClCC=1SC=C(C1)C1=CSC=C1 | C9H7ClS2
